US06680313B2
b) 4-Nitrobenzyl (1S,5R,6S)-2-(7-carbamoylmethylthio-5-methylthioimidazo[5,1-b]thiazol-2-yl)-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate
4-Nitrobenzyl (1S,5R,6S)-2-[5,7-bis(methylthio)imidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate (107 mg) was dissolved in 2 ml of acetone. 2-Iodoacetamide (353 mg) was added to the solution. The mixture was stirred at room temperature for 14 days. The solvent was removed by distillation under the reduced pressure. The residue was purified by column chromatography on Sephadex LH-20 (chloroform:methanol=1:1) to prepare 88 mg of 4-nitrobenzyl (1S,5R,6S)-2-(7-carbamoylmethylthio-5-methylthioimidazo[5,1-b]thiazol-2-yl)-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate as a crude product.

reactant | 4-Nitrobenzyl (1S,5R,6S)-2-[5,7-bis(methylthio)imidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate | 107 mg | CSC1=NC(=C2SC(=CN21)C=2[C@@H]([C@H]1N(C2C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C([C@@H]1[C@@H](C)O)=O)C)SC | C24H24N4O6S3
reactant | 2-Iodoacetamide | 353 mg | ICC(=O)N | C2H4INO
solvent | acetone | 2 ml | CC(=O)C | C3H6O
product | 4-Nitrobenzyl (1S,5R,6S)-2-(7-carbamoylmethylthio-5-methylthioimidazo[5,1-b]thiazol-2-yl)-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate | C(N)(=O)CSC=1N=C(N2C1SC(=C2)C=2[C@@H]([C@H]1N(C2C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C([C@@H]1[C@@H](C)O)=O)C)SC | C25H25N5O7S3
